US05374720
The same procedure as in Example 1-1 was carried out by using p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (180 mg, 0.30 mmol) and (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-(2-pyrrolidon- 3-yl)pyrrolidine (110 mg, 0.30 mmol) to obtain p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-[(2S,4S)-N-(p-nitrobenzyloxycarbonyl)-2-(2-pyrrolidon-3-yl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (161 mg, yield: 74.9%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.30 mmol, 180 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-(2-pyrrolidon- 3-yl)pyrrolidine | 0.30 mmol, 110 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1C(NCC1)=O | C16H19N3O5S
product | p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-[(2S,4S)-N-(p-nitrobenzyloxycarbonyl)-2-(2-pyrrolidon-3-yl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 161 mg, yield: 74.9% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C[C@@]2(C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C2C(NCC2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C33H35N5O11S
